US08383821B2
Methyl 2-methoxy-5-(1H-tetrazol-5-yl)benzoate.
A stirred solution of methyl 5-cyano-2-methoxybenzoate (0.87 g, 4.5 mmol) in toluene (4 mL) was treated with azidotrimethyltin (1.85 g, 9.0 mmol) and heated at reflux overnight. After cooling to room temperature, the solvents were evaporated. The crude product was dissolved in ethyl acetate, washed with brine (2×), dried over sodium sulfate, and concentrated. Column chromatography on silica gel (5% methanol/methylene chloride) afforded 0.78 g (75%). LC/MS (HPLC method 3): tR=1.66 min, 235.05 (MH)+.

reactant | methyl 5-cyano-2-methoxybenzoate | 4.5 mmol, 0.87 g | C(#N)C=1C=CC(=C(C(=O)OC)C1)OC | C10H9NO3
reactant | azidotrimethyltin | 9.0 mmol, 1.85 g | N(=[N+]=[N-])[Sn](C)(C)C
solvent | toluene | 4 mL | C1(=CC=CC=C1)C | C7H8
product | Methyl 2-methoxy-5-(1H-tetrazol-5-yl)benzoate | COC1=C(C(=O)OC)C=C(C=C1)C1=NN=NN1 | C10H10N4O3
